US04933505
n-BuLi (1.6 M hexane soln, 3.12 mL) was added dropwise with stirring to a solution of nitropropane (0.45 mL, 5 mmol) in THF (4 mL at -78° C. After 20 minutes the complex (as prepared above) was added and the solution allowed to warm to room temperature. After a further 4 hours the reaction was quenched at 0° C. with an aqueous slurry of disodium EDTA (1.86 g in 10 mL water). The mixture was diluted with water (50 mL) and extracted with Et2O (3×50 mL). The combined Et2O extracts were washed with hydrochloric acid (2 M, 50 mL), aqueous sodium bicarbonate (saturated, 50 mL) and water (50 mL, dried and evaporated in vacuo. Flash column chromatography [SiO2 hexane, Et2O 6:1] gave 1-phenyl-2-nitro-1-propanol (0.271 g, 28%) Erythro:threo ratio 4.6:1.

reactant | n-BuLi | [Li]CCCC
reactant | hexane | 1.6 M | CCCCCC | C6H14
reactant | nitropropane | 5 mmol, 0.45 mL | [N+](=O)([O-])CCC | C3H7NO2
reactant | THF | C1CCOC1 | C4H8O
product | 1-phenyl-2-nitro-1-propanol | 0.271 g, 28% | C1(=CC=CC=C1)C(C(C)[N+](=O)[O-])O | C9H11NO3
